US06951879B2
In analogy to example 19.1, 4-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol and Dimethylamine were converted to yield Dimethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl}-amine as brown oil, MS: 375 (MH+).

reactant | 4-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCO)(F)F | C18H12F3NOS
reactant | Dimethylamine | CNC | C2H7N
product | Dimethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl}-amine | CN(CCC#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)C | C20H17F3N2S
